US08183272B2
(1d) 1-(2-Bromo-3-ethoxy phenyl)ethanone
Under nitrogen atmosphere, 1-(2-bromo-3-hydroxy phenyl)ethanone (6.50 g, 30.2 mmol), which had been obtained in Reference example 1(1c), and potassium carbonate (8.36 g, 60.5 mmol) were dissolved in N,N-dimethyl formamide (60 mL), and stirred at room temperature for 10 minutes. Subsequently, ethyl iodide (3.14 mL, 39.3 mmol) was added to the mixture, which was then further stirred for 21 hours. Ethyl acetate/hexane (1:1, V/V) and water were added to the reaction solution for fractionation, and the aqueous layer was extracted with ethyl acetate/hexane (1:1, V/V). The organic layers were combined, washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (hexane:ethyl acetate, 100:0-85:15, V/V) to give the title compound as a colorless oily substance (4.89 g, yield 67%).

reactant | 1-(2-bromo-3-hydroxy phenyl)ethanone | 30.2 mmol, 6.50 g | BrC1=C(C=CC=C1O)C(C)=O | C8H7BrO2
reactant | potassium carbonate | 60.5 mmol, 8.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 39.3 mmol, 3.14 mL | C(C)I | C2H5I
reactant | Ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | N,N-dimethyl formamide | 60 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(2-Bromo-3-ethoxy phenyl)ethanone | yield 67% | BrC1=C(C=CC=C1OCC)C(C)=O | C10H11BrO2
